US07335673B2
Thus obtained 3,5-dichloropyridine-4-carboxylic acid (384 mg, 2 mmol) was dispersed in 1,2-dichloroethane (30 mL) to prepare a slurry, added with thionyl chloride (0.44 mL, 5 mmol), further added with dimethylformamide (0.3 mL), and the mixture was refluxed under heating for 1 hour. The solvent was evaporated under reduced pressure to thereby obtain a crude product of 3,5-dichloropyridine-4-carbonylchloride. 3-(4-aminophenyl)-2-{3-[(2,2-dimethyl propionyl)isobutylamino]-4-methoxyphenyl}propionic acid ethyl ester (2.04 g, 4.5 mmol) obtained in Example 38 was then dissolved in 1,2-dichloroethane (30 mL), and added with pyridine (0.57 mL, 7 mmol). To the mixture, the 1, 2-dichloroethane solution (10 mL) of 3,5-dichloro pyridine-4-carbonylchloride obtained in the above was added, and the mixture was stirred for 1 hour. The reaction solution was treated with water (15 mL), extracted with chloroform, dried over anhydrous sodium sulfate, evaporated under reduced pressure so as to remove the solvent, and the resultant residue was purified through silica gel column chromatography (hexane:ethyl acetate (v/v)=3:2) to thereby obtain 3-[4-(3,5-dichloropyridine-4-carbonylamino) phenyl]-2-{3-[(2,2-dimethylpropionyl)isobutylamino]-4-methoxyphenyl}propionic acid ethyl ester (yield: 2.77 g, yield ratio: 98%).

reactant | 3,5-dichloropyridine-4-carboxylic acid | 2 mmol, 384 mg | ClC=1C=NC=C(C1C(=O)O)Cl | C6H3Cl2NO2
reactant | thionyl chloride | 5 mmol, 0.44 mL | S(=O)(Cl)Cl | Cl2OS
reactant | dimethylformamide | 0.3 mL | CN(C=O)C | C3H7NO
solvent | 1,2-dichloroethane | 30 mL | ClCCCl | C2H4Cl2
product | 3,5-dichloropyridine-4-carbonylchloride | ClC=1C=NC=C(C1C(=O)Cl)Cl | C6H2Cl3NO
